US06465467B1
Step 1: 2-(3-Phenylphenoxy)ethanol.
The title compound was prepared according to the procedure of Example 114, Step 1 starting from 3-phenylphenol (1.72 g, 10.1 mmol) and ethylene carbonate (0.80 g, 9.1 mmol) and DMF (3 mL). Semi-solid; yield 86%. MS m/z 214 (M)+.

reactant | 3-phenylphenol | 10.1 mmol, 1.72 g | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
reactant | ethylene carbonate | 9.1 mmol, 0.80 g | C1(OCCO1)=O | C3H4O3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(3-Phenylphenoxy)ethanol | yield 86% | C1(=CC=CC=C1)C=1C=C(OCCO)C=CC1 | C14H14O2
